data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(F)c(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2F)C(=N)C=C1", "products": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1cc(F)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(F)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(F)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(F)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(F)c2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(F)c2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(F)c2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(Cl)ccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cc(Cl)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cc(Cl)ccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(Cl)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cc(Cl)ccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cc(Cl)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cc(Cl)ccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cc(Cl)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cc(Cl)ccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cc(Cl)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cc(Cl)ccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cc(Cl)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cc(Cl)ccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cc(Cl)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cc(Cl)ccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cc(Cl)ccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(Cl)(OC3C)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OC(C)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OC(C)C2O3)cc1", "products": "CC1OC2(Cl)OC1C1C(=O)C12"}, {"reactants": "CC1OC2(Cl)OC1C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(Cl)(OC3C)C21"}, {"reactants": "COC1([O-])C2C3OC(Cl)(OC3C)C21.CO", "products": "COC(=O)C1CC2OC1(Cl)OC2C"}]}
{"conditions": [], "steps": [{"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1Br.C=O", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Br"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Br", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Br"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Br", "products": "C=[N+](O)[C@@H]1C(Br)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Br)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Br)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Br)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(Cl)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)cc2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)cc1Cl", "products": "O=C1CCN2C[C@H](OCc3ccc(F)cc3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(F)c1=C", "products": "COC[Si](C)(C)c1cc2c(c(F)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
